US06924294B2
A. Ethyl (3S, 4aR, 6S, 8aR) 6-(3-fluoro-2-cyano-phenylamino)-2-methoxycarbonyl-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate
Following the procedures from Example 3A, and using 5.38 g (19.0 mmol) of ethyl 6-oxo-2-(methoxycarbonyl)-decahydroisoquinoline-3-carboxylate, 1.36 g (10.0 mmol) of 2-amino-6-fluorobenzonitrile, 3.6 mL (60 mmol) of glacial acetic acid, 5.7 g (27.0 mmol) of sodium triacetoxyborohydride, flash chromatography (silica gel, hexane-ethyl acetate 3:1) afforded 50 mg (1% yield) of the title compound.

reactant | ethyl 6-oxo-2-(methoxycarbonyl)-decahydroisoquinoline-3-carboxylate | 19.0 mmol, 5.38 g | O=C1CC2CC(N(CC2CC1)C(=O)OC)C(=O)OCC | C14H21NO5
reactant | 2-amino-6-fluorobenzonitrile | 10.0 mmol, 1.36 g | NC1=C(C#N)C(=CC=C1)F | C7H5FN2
reactant | acetic acid | 60 mmol, 3.6 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 27.0 mmol, 5.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | Ethyl (3S, 4aR, 6S, 8aR) 6-(3-fluoro-2-cyano-phenylamino)-2-methoxycarbonyl-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate | 50 mg, 1% yield | FC=1C(=C(C=CC1)N[C@@H]1C[C@@H]2C[C@H](N(C[C@@H]2CC1)C(=O)OC)C(=O)OCC)C#N | C21H26FN3O4
